US06617339B1
3-(4-(3-Oxo-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-((3R)-3-Hydroxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one (700 mg, 1.9 mmol) was dissolved in DMSO(5 ml) under nitrogen and triethylamine (2.03 g, 20 mmol) added. A solution of sulfur trioxide pyridine complex (0.95 g, 6 mmol) in DMSO(5 ml) was added dropwise over 20 minutes. After stirring 1 hour at ambient temperature, the mixture was diluted with water (100 ml) and extracted into EtOAc (150 ml). The organics were washed with water (2×50 ml), brine (50 ml) and dried (magnesium sulfate). After evaporation, the residue was purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 3% MeOH in dichloromethane. Relevant fractions were combined and evaporated, and the residue crystallised from ethanol (35 ml) to give product (176 mg). MS (ESP): 362 (MH+) for C17H16FN3O5.

reactant | 3-(4-((3R)-3-Hydroxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 1.9 mmol, 700 mg | O[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C17H18FN3O5
reactant | triethylamine | 20 mmol, 2.03 g | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | 3-(4-(3-Oxo-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 176 mg | O=C1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C17H16FN3O5
